US07579474B2
4-(2,3-DICHLOROPHENYL)-1-PROPYLPIPERIDIN-4-OL
Preparation according to Example 2: 4-(2,3-dichlorophenyl)piperidin-4-ol (0.43 g, 1.75 mmol), acetonitrile (20 ml), potassium carbonate (0.59 g, 4.3 mmol), iodopropane (0.15 ml, 1.9 mmol). Yield: 0.29 g, 57%. The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 181-183° C. MS m/z (relative intensity, 70 eV) 289 (M+, 2), 287 (M+, 4), 260 (64), 258 (bp) 240 (33).

reactant | 4-(2,3-dichlorophenyl)piperidin-4-ol | 1.75 mmol, 0.43 g | ClC1=C(C=CC=C1Cl)C1(CCNCC1)O | C11H13Cl2NO
reactant | potassium carbonate | 4.3 mmol, 0.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodopropane | 1.9 mmol, 0.15 ml | ICCC | C3H7I
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-(2,3-DICHLOROPHENYL)-1-PROPYLPIPERIDIN-4-OL | ClC1=C(C=CC=C1Cl)C1(CCN(CC1)CCC)O | C14H19Cl2NO
